US07314880B2
3-Iodophenoxy-tert-butyldimethylsilane (48.85 g, 146 mmol) was placed in a 250 mL flask with 180 mL of dry tetrahydrofuran at room temperature under nitrogen, Isopropylmagnesium chloride (73 mL, 146 mmol, 2.0 M solution in tetrahydrofuran) was added through an addition funnel to form a light yellow solution. The reaction was stirred at room temperature for 1 hour. In the meantime, 30 g of 4-formyl-N,N-diethylbenzamide was dissolved in 300 mL of dry tetrahydrofuran in another 1000 mL flask and cooled to −72° C. under nitrogen. The freshly prepared 3-phenoxy-tert-butyl-dimethylsilane magnesium chloride was slowly added into the 1000 mL flask. The transfer rate was monitored to maintain reaction temperature below −70° C. The reaction was allowed to warm to room temperature while stirring overnight. The mixture was quenched with 24 mL of saturated aqueous ammonium chloride, diluted with 600 mL of diethyl ether, and washed with 600 mL of water followed by 150 mL of saturated sodium chloride. The ethereal solution was dried over sodium sulfate and the solvent was removed to give crude 4-{[3-(tert-butyl-dimethylsilanyloxy)phenyl]hydroxymethyl}-N,N-diethylbenzamide as a yellow oil. Crude yield was˜100%. The crude product was slurried in a solution of 20% ethyl acetate in pentane. The resulting white precipitate was collected by filtration, washed with pentane, and dried overnight (30 mmHg, 40° C.).

reactant | 3-Iodophenoxy-tert-butyldimethylsilane | 146 mmol, 48.85 g | IC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1 | C12H19IOSi
reactant | Isopropylmagnesium chloride | 146 mmol, 2.0 M, 73 mL | C(C)(C)[Mg]Cl
reactant | 4-formyl-N,N-diethylbenzamide | 30 g | C(=O)C1=CC=C(C(=O)N(CC)CC)C=C1 | C12H15NO2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
product | 4-{[3-(tert-butyl-dimethylsilanyloxy)phenyl]hydroxymethyl}-N,N-diethylbenzamide | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C(C1=CC=C(C(=O)N(CC)CC)C=C1)O | C24H35NO3Si
